### PR TITLE
[Merged by Bors] - refactor(Algebra): replace `SemilinearEquivClass.semilinearEquiv` by structure-specific coercions

### PR DESCRIPTION
**Pull request by YaelDillies**
Remove the coercion from `E` to `SemilinearEquiv` assuming `SemilinearEquivClass E` and given by `SemilinearEquivClass.semilinearEquiv`. For each concrete type, reimplement this coercion through the relevant structure projection.

---
- [x] depends on: #38715

See also #21031, #37827.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 1]
```diff
@@ -139,9 +139,14 @@ variable {R₁ : Type*} {R₂ : Type*} {R₃ : Type*} [Semiring R₁] [Semiring
...
 
+attribute [coe] toLinearEquiv
+
 /-- Coerce continuous linear equivs to continuous linear maps. -/
-instance ContinuousLinearMap.coe : Coe (M₁ ≃SL[σ₁₂] M₂) (M₁ →SL[σ₁₂] M₂) :=
-  ⟨toContinuousLinearMap⟩
+instance : Coe (M₁ ≃SL[σ₁₂] M₂) (M₁ →SL[σ₁₂] M₂) where coe := toContinuousLinearMap
+instance : Coe (M₁ ≃SL[σ₁₂] M₂) (M₁ ≃ₛₗ[σ₁₂] M₂) where coe := toLinearEquiv
+
+@[simp] lemma toLinearMap_toContinuousLinearMap (e : M₁ ≃SL[σ₁₂] M₂) :
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:148]: should this really be `simp`?

Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Equiv.lean:148]: Yes, we talked about this on Zulip and agreed that we should prefer projections that preserve equivalences over ones tha don't. Sorry, I don't remember which topic this was discussed in. @j-loreaux might know

**Comment by grunweg** [comment]
(There is a merge conflict, and the simpNF linter still complains.)

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 2]
```diff
@@ -529,7 +528,6 @@ theorem toLinearMap_ofAlgHom (f : A₁ →ₐ[R] A₂) (g : A₂ →ₐ[R] A₁)
     (ofAlgHom f g h₁ h₂).toLinearMap = f.toLinearMap :=
   LinearMap.ext fun _ => rfl
 
-@[simp]
 theorem toLinearEquiv_toLinearMap : e.toLinearEquiv.toLinearMap = e.toLinearMap :=
```
Comment (Vierkantor) [inline Mathlib/Algebra/Algebra/Equiv.lean:525]: Agreed with this change, we should prefer rewriting in the other direction. Indeed, I would argue we should either turn `.toLinearMap` into an `abbrev` or deprecate it outright. Do you have a PR or TODO list item along these lines that you can link to in a comment here?

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 3]
```diff
@@ -139,9 +139,14 @@ variable {R₁ : Type*} {R₂ : Type*} {R₃ : Type*} [Semiring R₁] [Semiring
 def toContinuousLinearMap (e : M₁ ≃SL[σ₁₂] M₂) : M₁ →SL[σ₁₂] M₂ :=
   { e.toLinearEquiv.toLinearMap with cont := e.continuous_toFun }
 
+attribute [coe] toLinearEquiv
+
 /-- Coerce continuous linear equivs to continuous linear maps. -/
-instance ContinuousLinearMap.coe : Coe (M₁ ≃SL[σ₁₂] M₂) (M₁ →SL[σ₁₂] M₂) :=
-  ⟨toContinuousLinearMap⟩
+instance : Coe (M₁ ≃SL[σ₁₂] M₂) (M₁ →SL[σ₁₂] M₂) where coe := toContinuousLinearMap
+instance : Coe (M₁ ≃SL[σ₁₂] M₂) (M₁ ≃ₛₗ[σ₁₂] M₂) where coe := toLinearEquiv
```
Comment (Vierkantor) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:146]:
```suggestion
instance : CoeOut (M₁ ≃SL[σ₁₂] M₂) (M₁ →SL[σ₁₂] M₂) where coe := toContinuousLinearMap
instance : CoeOut (M₁ ≃SL[σ₁₂] M₂) (M₁ ≃ₛₗ[σ₁₂] M₂) where coe := toLinearEquiv
```
for consistency with the other maps?

**Review by Vierkantor — COMMENTED** [review]
Looks good to me overall, let me know when the build passes for a final review.

File: Mathlib/Topology/Algebra/Module/Equiv.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Equiv.lean:146]: I originally had this but it actually broke a file

Comment (themathqueen) [reply Mathlib/Topology/Algebra/Module/Equiv.lean:146]: So there is a difference between the two after all 👀

Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Equiv.lean:146]: Yes, Anne explained the difference in #21031

File: Mathlib/Algebra/Algebra/Equiv.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Algebra/Equiv.lean:525]: Making it an `abbrev` now because it simplifies my life in other ways

Comment (YaelDillies) [reply Mathlib/Algebra/Algebra/Equiv.lean:525]: In general, the tracking issue is #31365

**Comment by Vierkantor** [comment]
Looks like the `simp` set still needs a bit of massaging. (Can we finally remove the TODO in `FractionalIdeal/Operations.lean`?)

**Comment by YaelDillies** [comment]
What TODO are you talking about? I can't find it

File: Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean [hunk 4]
```diff
@@ -223,7 +223,8 @@ lemma det_smulFDeriv (g : GL (Fin 2) ℝ) (z : ℂ) :
   simp only [smulFDeriv, σ]
   rcases g.det_ne_zero.lt_or_gt with h | h
   · simp [h.not_gt, ContinuousLinearMap.det, LinearMap.det_restrictScalars,
-      Algebra.norm_complex_eq, Complex.normSq_eq_norm_sq, ← pow_mul, sign_neg h, neg_div]
+      Algebra.norm_complex_eq, Complex.normSq_eq_norm_sq, ← pow_mul, sign_neg h, neg_div,
+      ]
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean]:
```suggestion
      Algebra.norm_complex_eq, Complex.normSq_eq_norm_sq, ← pow_mul, sign_neg h, neg_div]
```

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 5]
```diff
@@ -519,18 +517,17 @@ theorem toLinearEquiv_injective : Function.Injective (toLinearEquiv : _ → A₁
...
-theorem toAlgHom_toLinearMap : (e : A₁ →ₐ[R] A₂).toLinearMap = e.toLinearMap :=
-  rfl
+lemma toAlgHom_toLinearMap : e.toAlgHom.toLinearMap = e.toLinearEquiv.toLinearMap := rfl
 
 theorem toLinearMap_ofAlgHom (f : A₁ →ₐ[R] A₂) (g : A₂ →ₐ[R] A₁) (h₁ h₂) :
     (ofAlgHom f g h₁ h₂).toLinearMap = f.toLinearMap :=
   LinearMap.ext fun _ => rfl
 
-@[simp]
+
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Equiv.lean]:
```suggestion
```

File: Mathlib/FieldTheory/Minpoly/Field.lean [hunk 6]
```diff
@@ -325,7 +325,7 @@ variable {K L} [Field K] [CommRing L] [IsDomain L] [Algebra K L]
 lemma minpoly_algEquiv_toLinearMap (σ : L ≃ₐ[K] L) (hσ : IsOfFinOrder σ) :
     minpoly K σ.toLinearMap = X ^ (orderOf σ) - C 1 := by
   refine (minpoly.unique _ _ (monic_X_pow_sub_C _ hσ.orderOf_pos.ne.symm) ?_ ?_).symm
-  · simp [← AlgEquiv.pow_toLinearMap, pow_orderOf_eq_one]
+  · simp [← AlgEquiv.pow_toLinearMap, pow_orderOf_eq_one, -AlgEquiv.toAlgHom_toLinearMap]
```
Comment (themathqueen) [inline Mathlib/FieldTheory/Minpoly/Field.lean]: You've had to disable `AlgEquiv.toAlgHom_toLinearMap` three times... is this a good `simp`?

Comment (YaelDillies) [reply Mathlib/FieldTheory/Minpoly/Field.lean]: I think so, but only if I tweak the simp set further, which I didn't to avoid scope-creep.

File: Mathlib/FieldTheory/KummerExtension.lean [hunk 7]
```diff
@@ -473,8 +473,8 @@ lemma exists_root_adjoin_eq_top_of_isCyclic [IsGalois K L] [IsCyclic Gal(L/K)] :
   -- `σ` has an eigenvector `v` with eigenvalue `ζ`.
   have : IsRoot (minpoly K σ.toLinearMap) ζ := by
     rw [IsGalois.card_aut_eq_finrank] at hσ'
-    simpa [minpoly_algEquiv_toLinearMap σ (isOfFinOrder_of_finite σ), hσ',
-      sub_eq_zero] using hζ.pow_eq_one
+    simpa [minpoly_algEquiv_toLinearMap σ (isOfFinOrder_of_finite σ), hσ', sub_eq_zero,
+      -AlgEquiv.toAlgHom_toLinearMap] using hζ.pow_eq_one
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/KummerExtension.lean]: Looks like this works now:
```suggestion
    simpa [minpoly_algEquiv_toLinearMap σ (isOfFinOrder_of_finite σ), hσ',
      sub_eq_zero] using hζ.pow_eq_one
```

File: Mathlib/FieldTheory/Minpoly/Field.lean (hunk 6 above)
Comment (Vierkantor) [reply Mathlib/FieldTheory/Minpoly/Field.lean]: Looks like this isn't needed either:
```suggestion
  · simp [← AlgEquiv.pow_toLinearMap, pow_orderOf_eq_one]
```

File: Mathlib/LinearAlgebra/GeneralLinearGroup/AlgEquiv.lean [hunk 8]
```diff
@@ -48,7 +48,7 @@ public theorem AlgEquiv.eq_linearEquivConjAlgEquiv (f : End K V ≃ₐ[K] End K
     congr; ext; simp
   have surj : Function.Surjective T := fun w ↦ by
     obtain ⟨d, hd⟩ := Projective.exists_dual_eq_one K hz
-    exact ⟨f.symm (smulRight d w) u, by simp [T, this, hd]⟩
+    exact ⟨f.symm (smulRight d w) u, by simp [T, this, hd, -AlgEquiv.toAlgHom_toLinearMap]⟩
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/GeneralLinearGroup/AlgEquiv.lean]: Idem:
```suggestion
    exact ⟨f.symm (smulRight d w) u, by simp [T, this, hd]⟩
```

File: Mathlib/RingTheory/Coalgebra/Equiv.lean [hunk 9]
```diff
@@ -171,9 +173,10 @@ def symm (e : A ≃ₗc[R] B) : B ≃ₗc[R] A :=
       change (TensorProduct.congr (e : A ≃ₗ[R] B) (e : A ≃ₗ[R] B)).symm.toLinearMap ∘ₗ comul
         = comul ∘ₗ (e : A ≃ₗ[R] B).symm
       rw [LinearEquiv.toLinearMap_symm_comp_eq]
-      simp only [TensorProduct.congr, toLinearEquiv_toLinearMap,
-        LinearEquiv.ofLinear_toLinearMap, ← LinearMap.comp_assoc, CoalgHomClass.map_comp_comul,
-        LinearEquiv.eq_comp_toLinearMap_symm] }
+      simp only [TensorProduct.congr, toCoalgHom_eq_coe, CoalgHom.toLinearMap_eq_coe,
+        LinearEquiv.ofLinear_toLinearMap, ← LinearMap.comp_assoc, CoalgHomClass.map_comp_comul]
+      rw [← toLinearEquiv_toLinearMap, LinearEquiv.comp_symm_cancel_right]
+       }
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Coalgebra/Equiv.lean]:
```suggestion
      rw [← toLinearEquiv_toLinearMap, LinearEquiv.comp_symm_cancel_right] }
```

Maybe we should flip the direction of `toLinearEquiv_toLinearMap` in the future?

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 10]
```diff
@@ -136,6 +136,7 @@ lemma of_isEffective_tensorProduct_of_faithfullyFlat
       ((TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).injective) |>.mpr ‹_›
   · ext
     simp [← Algebra.TensorProduct.linearMap_comp_rid]
+    rfl
```
Comment (Vierkantor) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean:141]:
```suggestion
    -- The goal is TensorProduct.rid .. = TensorProduct.AlgebraTensorModule.rid ..
    -- TODO: merge both into one definition, and remove the rfl.
    rfl
```

**Review by Vierkantor — APPROVED** [review]
Looks good to me with a few final fixes. 🎉 

bors d+

**Comment by YaelDillies** [comment]
Thank you both for the review!

bors merge
